US05030727
2-methyl-6-chloro-5H-thiazolo-(2,3-b)-quinazolin-5-one (compound 14)
10.2 g of 6-chloroanthranilamide and 10.74 g of 2-bromo-5-methylthiazole were stirred at 140° C. for 2 hours. After working up in the conventional manner there was obtained 11.7 g (78%) of the above compound; m.p. 235°-236° C.

reactant | 6-chloroanthranilamide | 10.2 g | ClC=1C=CC=C(C1C(=O)N)N | C7H7ClN2O
reactant | 2-bromo-5-methylthiazole | 10.74 g | BrC=1SC(=CN1)C | C4H4BrNS
product | 2-methyl-6-chloro-5H-thiazolo-(2,3-b)-quinazolin-5-one | 11.7 g, 78% | CC1=CN2C(=NC3=CC=CC(=C3C2=O)Cl)S1 | C11H7ClN2OS
